US05410067
Preparation of 4,5-dihydroxyphenylacetonitrile (V)
Hydrogen chloride gas is bubbled through a suspension of 2 moles (354 g) of homoveratronitrile in 161 ml of pyridine, with stirring and under a nitrogen atmosphere. As soon as the temperature reaches 115° C. and becomes stable, the bubbling is discontinued; the reaction medium is heated to 170° C. for 3 hours. During this period, hydrogen chloride is bubbled through for 5 to 10 minutes at approximately half-hourly intervals. When the reaction has ended, the reaction mixture is poured into a mixture of ice and water (1.2 kg).

reactant | Hydrogen chloride | Cl | ClH
reactant | homoveratronitrile | 2 moles, 354 g | C(CC1=CC(OC)=C(OC)C=C1)#N | C10H11NO2
solvent | pyridine | 161 ml | N1=CC=CC=C1 | C5H5N
product | 4,5-dihydroxyphenylacetonitrile | OC1=CC=C(C=C1O)CC#N | C8H7NO2
